US06344559B1
As in Example 1, 7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline (20 g) was silylated and the toluene was distilled off to give a concentrate containing 7-chloro-2,4-bis(trimethylsilyloxy)quinazoline. To this concentrate were added propylene carbonate (40 ml), ethyl chloroacetate (16.21 g) and bromotrimethylsilane (3.11 g), and the reaction was carried out at an internal temperature of 125˜140° C. for 8 hours. This reaction mixture was cooled to ≦70° C. and worked up as in Example 1 to provide ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate (27.90 g).

reactant | 7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline | 20 g | ClC1=CC=C2C(NC(NC2=C1)=O)=O | C8H5ClN2O2
reactant | 7-chloro-2,4-bis(trimethylsilyloxy)quinazoline | ClC1=CC=C2C(=NC(=NC2=C1)O[Si](C)(C)C)O[Si](C)(C)C | C14H21ClN2O2Si2
reactant | ethyl chloroacetate | 16.21 g | ClCC(=O)OCC | C4H7ClO2
reactant | bromotrimethylsilane | 3.11 g | Br[Si](C)(C)C | C3H9BrSi
solvent | propylene carbonate | 40 ml | C1(OCC(C)O1)=O | C4H6O3
product | ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate | 27.90 g | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
